US08859559B2
A mixture of 4-[(4-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}piperidin-1-yl)methyl]benzoic acid (1.20 g; 2.63 mmol), TBTU (1.01 g; 3.15 mmol) and DIPEA (1.8 ml; 3.15 mmol) in DMF (10 ml) is stirred for 5 min. tert-Butyl N-{2-[2-(2-aminoethoxy)ethoxy]ethyl}carbamate (783 mg; 3.15 mmol) is added and the mixture is stirred overnight. Volatiles are evaporated and the product is purified by RP-HPLC (modifier: TFA) to yield 9H-fluoren-9-ylmethyl N-(1-{[4-({2-[2-(2-{[(tertbutoxy)carbonyl]amino}ethoxy)ethoxy]ethyl}carbamoyl)phenyl]methyl}piperidin-4-yl)carbamate.

reactant | 4-[(4-{[(9H-fluoren-9-ylmethoxy)carbonyl]amino}piperidin-1-yl)methyl]benzoic acid | 2.63 mmol, 1.20 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C28H28N2O4
reactant | TBTU | 3.15 mmol, 1.01 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 3.15 mmol, 1.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl N-{2-[2-(2-aminoethoxy)ethoxy]ethyl}carbamate | 3.15 mmol, 783 mg | NCCOCCOCCNC(OC(C)(C)C)=O | C11H24N2O4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 9H-fluoren-9-ylmethyl N-(1-{[4-({2-[2-(2-{[(tertbutoxy)carbonyl]amino}ethoxy)ethoxy]ethyl}carbamoyl)phenyl]methyl}piperidin-4-yl)carbamate | C(C)(C)(C)OC(=O)NCCOCCOCCNC(=O)C1=CC=C(C=C1)CN1CCC(CC1)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C39H50N4O7
